US09428460B2
trans-{4-[(8-fluoroquinolin-4-yl)oxy]cyclohexyl}methylamine
tert-Butyl-N-({trans-4-[(8-fluoroquinolin-4-yl)oxy]cyclohexyl}methyl)carbamate (950 mg, 2.54 mmol) was dissolved in dichloromethane (7.0 mL) and trifluoroacetic acid (2.0 mL, 25.4 mmol) was added at room temperature. After one hour at room temperature the reaction mixture was concentrated by evaporation and was then coevaporated with toluene. The residue was taken up in ammoniacal methanol solution (7 N) and concentrated by evaporation again to dryness. After chromatography, the desired product was obtained at 68% yield (470 mg).

reactant | tert-Butyl-N-({trans-4-[(8-fluoroquinolin-4-yl)oxy]cyclohexyl}methyl)carbamate | 2.54 mmol, 950 mg | C(C)(C)(C)OC(NC[C@@H]1CC[C@H](CC1)OC1=CC=NC2=C(C=CC=C12)F)=O | C21H27FN2O3
reactant | trifluoroacetic acid | 25.4 mmol, 2.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 7.0 mL | ClCCl | CH2Cl2
product | trans-{4-[(8-fluoroquinolin-4-yl)oxy]cyclohexyl}methylamine | 68% yield | FC=1C=CC=C2C(=CC=NC12)O[C@@H]1CC[C@H](CC1)CN | C16H19FN2O
